US05565449
A solution of 1.03 g (2.80 mmol) of N-(5-(4-cyanobenzyloxy)-2-aminobenzoyl)-b-alanine ethyl ester, 394 mg (2.80 mmol) of p-chlorobenzaldehyde, and 20 mg of p-toluenesulfonic acid in 30 mL of toluene was heated at reflux through a Dean-Stark trap for 45 min. The solvent was removed in vacuo and the residue was dissolved in 15 mL of trifluoroacetic acid. Triethylsilane (1.34 mL, 8.40 mmol) was added and the mixture was stirred at room temperature for 12 h, concentrated in vacuo, and partitioned between 1N aqueous sodium bicarbonate and ethyl acetate. The organic phase was washed with water, brine, dried over anhydrous magnesium sulfate, and concentrated. Chromatography (silica gel-60, 2:3 ethyl acetate/hexane) gave 820 mg (59%) of N-(5-(4-cyanobenzyloxy)-2-(4-chlorobenzylamino)benzoyl)-b-alanine ethyl ester as a colorless solid. 1H NMR (300 MHz, CDCl3) d 7.66 (2H, d, J=7.8 Hz, NC-Ar-H2), 7.51 (2H, d, J=7.8 Hz, NC-Ar-H2), 7.27 (4H, s, ClArH4), 6.98 (1H, d, J=2.0 Hz, O-Ar-H), 6.89 (1H, dd, J=2.0, 9.3 Hz, O-Ar-H), 6.78 (1H, b, N-H), 6.66 (1H, d, J=9.3 Hz, O-Ar-H), 5.03 (2H, s, ArCH2O), 4.32 (2H, s, ClArCH2), 4.17 (2H, q, J=7.3 Hz, OCH2CH3), 3.65 (2H, bq, J=5.7 Hz, NHCH2CH2), 2.62 (2H, t, J=5.7 Hz, NHCH2CH2), 1.28 (3H, t, J=7.3 Hz, OCH2CH3); Exact mass (FAB, M+H+) calcd for C27H27ClN3O4 : 492.1690; Found: 492.1681.

reactant | N-(5-(4-cyanobenzyloxy)-2-aminobenzoyl)-b-alanine ethyl ester | 2.80 mmol, 1.03 g | C(C)OC(CCNC(C1=C(C=CC(=C1)OCC1=CC=C(C=C1)C#N)N)=O)=O | C20H21N3O4
reactant | p-chlorobenzaldehyde | 2.80 mmol, 394 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | Triethylsilane | 8.40 mmol, 1.34 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 20 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-(5-(4-cyanobenzyloxy)-2-(4-chlorobenzylamino)benzoyl)-b-alanine ethyl ester | 820 mg, 59% | C(C)OC(CCNC(C1=C(C=CC(=C1)OCC1=CC=C(C=C1)C#N)NCC1=CC=C(C=C1)Cl)=O)=O | C27H26ClN3O4
